US04828979
1. Preparation of Biotin-N-hydroxysuccinimide
Biotin (1.0 g, 4.1 mmole) was dissolved in 10 ml DMF (dry) with heating at 80° C. in oil bath. CDI (665 mg, 4.1 mmoles) was added and the mixture was heated at 80° C. The reaction mixture was stirred at 80° C. for 30 minutes, then at room temperature for 2 hours; a white precipitate formed. N-hydroxysuccinimide (475 mg, 4.1 mmoles) was added and the reaction mixture was stirred at room temperature overnight. DMF was removed under vacuum on rotary evaporator. The solid residue was dissolved in 250 ml of refluxing isopropanol, filtered, and stored in the cold room overnight. The precipitate was filtered, washed one time with cold isopropanol and dried in vacuo at 45° C. overnight to give 870 mg (61% yield) of the desired product.

reactant | Biotin | 4.1 mmole, 1.0 g | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | CDI | 4.1 mmoles, 665 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N-hydroxysuccinimide | 4.1 mmoles, 475 mg | ON1C(CCC1=O)=O | C4H5NO3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Biotin-N-hydroxysuccinimide | 870 mg, 61% yield | ON1C(CCC1=O)=O.OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | InChI=1S/C10H16N2O3S.C4H5NO3/c13-8(14)4-2-1-3-7-9-6(5-16-7)11-10(15)12-9;6-3-1-2-4(7)5(3)8/h6-7,9H,1-5H2,(H,13,14)(H2,11,12,15);8H,1-2H2/t6-,7-,9-;/m0./s1
